US05464922
0.540 g 3,3'-dihydroxy-4,4'-diaminobiphenyl (synthesized from 3,3'-dimethoxy-4,4'-diaminobiphenyl using hydrogen iodide by the known method) and 1.52 g triethylamine were dissolved in 16 mL dry tetrahydrofuran. 1.63 g trimethylchlorosilane was then added dropwise followed by heating under reflux for 72 hours. Operating in an argon atmosphere, the salt was filtered off and the solvent, etc., was removed under reduced pressure to yield 3,3'-bis(trimethylsiloxy)-4,4'-bis(trimethylsilylamino)biphenyl. This monomer was prepared immediately prior to each of the polymerization reactions described below.

reactant | 3,3'-dihydroxy-4,4'-diaminobiphenyl | 0.540 g | OC=1C=C(C=CC1N)C1=CC(=C(C=C1)N)O | C12H12N2O2
reactant | 3,3'-dimethoxy-4,4'-diaminobiphenyl | COC=1C=C(C=CC1N)C1=CC(=C(C=C1)N)OC | C14H16N2O2
reactant | hydrogen iodide | I | HI
reactant | trimethylchlorosilane | 1.63 g | C[Si](Cl)(C)C | C3H9ClSi
solvent | tetrahydrofuran | 16 mL | O1CCCC1 | C4H8O
solvent | triethylamine | 1.52 g | C(C)N(CC)CC | C6H15N
product | 3,3'-bis(trimethylsiloxy)-4,4'-bis(trimethylsilylamino)biphenyl | C[Si](OC=1C=C(C=CC1N[Si](C)(C)C)C1=CC(=C(C=C1)N[Si](C)(C)C)O[Si](C)(C)C)(C)C | C24H44N2O2Si4
